US05639748
A solution of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-carbonitrile, prepared as in Example 12, (1.5 g, 6.8 mmol) in ethanol (25 ml) was treated with barium hydroxide octahydrate (2.6 g, 8.1 mmol) and water (25 ml) and heated to reflux for 94 hours. The mixture was cooled, diluted with water, ethanol and methanol, saturated with carbon dioxide and filtered. The filtrate was treated with Dry Ice to pH 5-6 and filtered. The filtrate was concentrated and extracted with ethyl acetate-ethyl ether and ethyl ether. The aqueous phase was treated with toluene, concentrated and the residue triturated with ethyl ether to give 9-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine-6-carboxylic acid.

reactant | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-carbonitrile | ClC1=CC=C(C2=C1CCN(CC2)C)C#N | C12H13ClN2
reactant | barium hydroxide octahydrate | 8.1 mmol, 2.6 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | carbon dioxide | C(=O)=O | CO2
solvent | water | 25 ml | O | H2O
product | 9-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine-6-carboxylic acid | ClC1=CC=C(C2=C1CCNCC2)C(=O)O | C11H12ClNO2
